US04829071
(A) 6-Amino-2-methylquinoline
2-Methyl-6-nitroquinoline (18.8 g) was stirred under a hydrogen atmosphere at 206.8 kPa (30 p.s.i.) for 2 hours in ethanol solution containing 5% Pd/C. The catalyst was then removed by filtration, the filtrate evaporated to small volume in vacuo, and the resultant precipitate collected by filtration, washed with ethanol and ether, and dried to give the title compound, yield 13.2 g, m.p. 188°-189°.

reactant | 2-Methyl-6-nitroquinoline | 18.8 g | CC1=NC2=CC=C(C=C2C=C1)[N+](=O)[O-] | C10H8N2O2
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 6-Amino-2-methylquinoline | NC=1C=C2C=CC(=NC2=CC1)C | C10H10N2
